US07790709B2
Preparation of N-methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)acrylamide
A solution of methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine (1.95 g, 11.4 mmol) in CH2Cl2 (40 mL) was treated with acryloyl chloride (1.2 mL, 14 mmol) and triethylamine (3.2 mL, 22 mmol). The mixture was stirred at room temperature for 1 h. The reaction mixture was diluted with CH2Cl2 (100 mL). The solution was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by column chromatography (silica gel, EtOAc/hexanes, 40/60) gave the title compound (2.10 g, 75%) as a pale yellow solid: MS (ESI) m/e 246 (M+H)+.

reactant | methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine | 11.4 mmol, 1.95 g | CNCC1=C(C2=C(S1)C=CC=C2)C | C11H13NS
reactant | acryloyl chloride | 14 mmol, 1.2 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 22 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)acrylamide | 2.10 g, 75% | CN(C(C=C)=O)CC1=C(C2=C(S1)C=CC=C2)C | C14H15NOS
